US05821240
(16) 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-methoxycarbonylcyclohexyl)amino]pyrimido[5,4-d]-pyrimidine by hydrolysis with sodium hydroxide solution. Melting point: 339° C.; Rf : 0.37 (silica gel; petroleum ether/ethyl acetate/methanol=10:10:3)

reactant | 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-methoxycarbonylcyclohexyl)amino]pyrimido[5,4-d]-pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)OC)Cl | C20H21Cl2N7O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)O)Cl | C19H19Cl2N7O2
